US05142064
3. Production of N-(2,6-dichlorothiobenzoyl)-N'-(3,4-dichlorophenyl)-urea
26.0 g of 2-(2,6-dichlorophenyl)-thiazoline-4,5-dione are suspended in 250 ml of dry toluene and heated to 90° C. while stirring. Gas is evolved and a violet solution is obtained, to which is added 16.2 g of 3,4-dichloroaniline dissolved in 30 ml of toluene. After stirring for 15 minutes the solution is cooled and the precipitate obtained is drawn off. Yield 20.1 g. Melting point 168° C.

reactant | 2-(2,6-dichlorophenyl)-thiazoline-4,5-dione | 26.0 g | ClC1=C(C(=CC=C1)Cl)C=1SC(C(N1)=O)=O | C9H3Cl2NO2S
reactant | 3,4-dichloroaniline | 16.2 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-dichlorothiobenzoyl)-N'-(3,4-dichlorophenyl)-urea | ClC1=C(C(=S)NC(=O)NC2=CC(=C(C=C2)Cl)Cl)C(=CC=C1)Cl | C14H8Cl4N2OS
